US03987067
Following the procedure of Example 1 but using 0.738 g. of PGF2α, 0.347 ml. of triethylamine, 0.326 ml. of isobutylchloroformate, and 0.433 g. of p-hydroxybenzamide, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-acetone (3:7). The residue obtained by concentration of selected fractions, 0.455 g., is crystallized from acetone diluted with an equal volume of acetonitrile as the title compound, white, free-flowing crystals, m.p. 129.5°-130.8° C., having Rf 0.32 (TLC on silica gel in ethyl acetate-acetone (3:7)).

reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
product | p-hydroxybenzamide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
